US09421205B2
(a) tert-Butyl 4-(4-nitrophenyl)piperazine-1-carboxylate (I1)
4-(4′-Nitrophenyl)piperazine hydrochloride (5.00 g, 20.5 mmol) was dissolved in DCM (100 mL) and treated with triethylamine (7.15 mL, 51.3 mmol) followed by Boc anhydride (4.93 g, 22.6 mmol) and the reaction was stirred at room temperature for 20 hours. To the mixture was added water (100 mL) and DCM (70 mL) and the layers were separated. The aqueous layer was extracted with DCM (100 mL), the organics were combined and washed with brine (100 mL), dried (Na2SO4), filtered and concentrated in vacuo to give a yellow-orange solid. The product was purified by silica gel chromatography (Biotage Isolera, 120 g Si cartridge, 0-100% EtOAc in petroleum benzine 40-60° C.) to give the title compound (I1) (4.895 g, 78% yield) as a yellow solid; 1H NMR (400 MHz, d6-DMSO) δ 8.10-8.04 (m, 2H), 7.04-6.97 (m, 2H), 3.48 (m, 8H), 1.42 (s, 9H). LCMS Method C: rt 6.13 min; m/z 208.2 [M-Boc+2H]+.

reactant | 4-(4′-Nitrophenyl)piperazine hydrochloride | 20.5 mmol, 5.00 g | Cl.[N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1
reactant | triethylamine | 51.3 mmol, 7.15 mL | C(C)N(CC)CC | C6H15N
reactant | Boc anhydride | 22.6 mmol, 4.93 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 100 mL | O | H2O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 4-(4-nitrophenyl)piperazine-1-carboxylate | 4.895 g, 78% yield | [N+](=O)([O-])C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C15H21N3O4
